US08471005B2
N-[3-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-ylamino)-pyridin-2-yl]-N-methyl-methanesulfonamide (50.0 mg, 0.131 mmol), 4-(4-morpholino)aniline (46.8 mg, 0.263 mmol) and N,N-Diisopropylethylamine (0.0687 mL, 0.394 mmol) were dissolved in 1-Methoxy-2-propanol (0.500 mL, 5.12 mmol). The reaction was irradiated at 300 watts, 200° C. for 20 minutes. The reaction was then reduced en vacuo and the resulting residue was isolated and purified by Gilson prep HPLC to afford N-Methyl-N-{3-[2-(4-morpholin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-ylamino]-pyridin-2-yl}-methanesulfonamide as a lyophilized powder. (M+H)=495.1. 1H NMR (400 MHz, DMSO, d6) δ 9.26 (s, 1H), 8.77 (s, 1H), 8.03 (m, 2H), 7.52 (d, 2H, J=8.05 Hz), 7.41 (d, 1H, J=8.24 Hz), 7.33 (m, 1H), 6.91 (m, 3H), 6.76 (m, 1H), 3.78 (m, 4H), 3.25 (s, 3H), 3.21 (s, 3H), 3.07 (m, 4H).

reactant | N-[3-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-ylamino)-pyridin-2-yl]-N-methyl-methanesulfonamide | 0.131 mmol, 50.0 mg | CS(=O)C1=NN2C(C=N1)=CC=C2NC=2C(=NC=CC2)N(S(=O)(=O)C)C | C14H16N6O3S2
reactant | 4-(4-morpholino)aniline | 0.263 mmol, 46.8 mg | C1COCCN1C2=CC=C(C=C2)N | C10H14N2O
reactant | N,N-Diisopropylethylamine | 0.394 mmol, 0.0687 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-Methoxy-2-propanol | 5.12 mmol, 0.500 mL | COCC(C)O | C4H10O2
product | N-Methyl-N-{3-[2-(4-morpholin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-ylamino]-pyridin-2-yl}-methanesulfonamide | CN(S(=O)(=O)C)C1=NC=CC=C1NC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCOCC2 | C23H26N8O3S
